US07179823B1
A mixture of ethyl(1-benzyl-5-phenyl-1H-pyrazol-4-yl)acetate (3.60 g), 5% palladium-carbon (7.00 g), formic acid (40 ml), and ethanol (150 ml) was refluxed for 2 hours. After the palladium-carbon was removed by filtration, the filtrate was concentrated. The residue was dissolved in ethyl acetate, washed with saturated aqueous sodium bicarbonate and then with saturated aqueous sodium chloride solution, dried (MgSO4), and concentrated to obtain ethyl (3-phenyl-1H-pyrazol-4-yl)acetate (2.33 g, yield: 90%) as a colorless oily substance.

reactant | ethyl(1-benzyl-5-phenyl-1H-pyrazol-4-yl)acetate | 3.60 g | C(C)OC(CC=1C=NN(C1C1=CC=CC=C1)CC1=CC=CC=C1)=O | C20H20N2O2
reactant | formic acid | 40 ml | C(=O)O | CH2O2
catalyst | palladium-carbon | 7.00 g | [C].[Pd]
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | ethyl (3-phenyl-1H-pyrazol-4-yl)acetate | 2.33 g, yield: 90% | C1(=CC=CC=C1)C1=NNC=C1CC(=O)OCC | C13H14N2O2
